US08497265B2
Step 2. 2-(Piperidin-4-yloxy)-3-(Tetrahydro-2H-Pyran-4-yl)Pyridine Hydrochloride
To tert-butyl 4-((3-(tetrahydro-2H-pyran-4-yl)pyridin-2-yl)oxy)piperidine-1-carboxylate (3.2 g, 8.8 mmol) was added 4 M HCl in MeOH (100 mL). The solution was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure to give the title compound (2 g, 9.8 mmol, yield 95%). ESI-MS (M+1): 263 calc. for C15H22N2O2 262.

reactant | tert-butyl 4-((3-(tetrahydro-2H-pyran-4-yl)pyridin-2-yl)oxy)piperidine-1-carboxylate | 8.8 mmol, 3.2 g | O1CCC(CC1)C=1C(=NC=CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C20H30N2O4
reactant | HCl | 4 M | Cl | ClH
solvent | MeOH | 100 mL | CO | CH4O
product | 2-(Piperidin-4-yloxy)-3-(Tetrahydro-2H-Pyran-4-yl)Pyridine Hydrochloride | 9.8 mmol, 2 g, yield 95% | Cl.N1CCC(CC1)OC1=NC=CC=C1C1CCOCC1 | InChI=1S/C15H22N2O2.ClH/c1-2-14(12-5-10-18-11-6-12)15(17-7-1)19-13-3-8-16-9-4-13;/h1-2,7,12-13,16H,3-6,8-11H2;1H
